US05124330
α-Bromo-m-xylene (10 ml, 74 mmole) was added to a solution of 75 g (11.8 equiv.) of anhydrous piperazine in 500 ml of benzene and the reaction was heated to reflux for two hours. After cooling to room temperature, the reaction was diluted with 300 ml of diethyl ether and washed with 500 ml of 0.2 M sodium hydroxide followed by two 500 ml portions of water. The organic solution was dried over sodium sulfate and the solvent removed to give 11.0 g (78%) of crude 1-(3-methylbenzyl)piperazine as a colorless oil.

reactant | α-Bromo-m-xylene | 74 mmole, 10 ml | BrCC1=CC(=CC=C1)C | C8H9Br
reactant | piperazine | 75 g, 11.8 equiv. | N1CCNCC1 | C4H10N2
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 1-(3-methylbenzyl)piperazine | 11.0 g, 78% | CC=1C=C(CN2CCNCC2)C=CC1 | C12H18N2
